US05969151
f) Diethyl 2-(5-methoxy-2,3-dihydrobenzofuran-6yliden)-malonate
To a solution of 5-Methoxy-2,3-dihydrobenzofuran-6al (295 mg, 1.66 mmol) in benzene was added diethyl malonate (265 mg, 1.66 mmol), acetic acid (20 mL, 0.35 mmol) and piperidine (30 mL, 0.30 mmol). The mixture was heated at reflux for 3 h and then poured into 100 mL of water. This mixture was extracted with three 50 mL portion of ethyl acetate. The combined organic extracts were washed with brine and dried (Na2SO4). Removal of the solvent under reduced pressure gave quatitative yield of the title compound as a yellowish oil: 1H NMR (400 MHz, CDCl3) d 8.02 (s, 1H), 6.79 (s, 1H), 6.78 (s, 1H), 4.52 (t, 2H), 4.30 (m, 4H), 3.80 (s, 3H), 3.18 (t, 2H), 1.28 (m, 6H).

reactant | 5-Methoxy-2,3-dihydrobenzofuran-6al | 1.66 mmol, 295 mg | COC=1C(=CC2=C(CCO2)C1)C=O | C10H10O3
reactant | diethyl malonate | 1.66 mmol, 265 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetic acid | 0.35 mmol, 20 mL | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.30 mmol, 30 mL | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 100 mL | O | H2O
product | Diethyl 2-(5-methoxy-2,3-dihydrobenzofuran-6yliden)-malonate | COC1C(C=C2C(CCO2)=C1)=C(C(=O)OCC)C(=O)OCC | C16H20O6
